US07288537B2
A solution of (S)-2-tert-butoxycarbonylamino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]4-oxo-butyric acid benzyl ester (1.0 g, 2.04 mmol) in dry THF (10 ml) is treated with a 1M solution of lithium aluminium hydride (5.1 ml) keeping the temperature between 20-30° C. using an ice-water bath. The reaction mixture is stirred at ambient temperature under argon for 2 hours, then quenched by addition of saturated aqueous Na2SO4 and filtered through a celite™ filter. The filtrate is partitioned between ethylacetate and saturated brine. The ethylacetate phase dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with 5:95 methanol/dichloromethane) to afford {(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-carbamic acid tert-butyl ester. [MH]+ 371.0.

reactant | (S)-2-tert-butoxycarbonylamino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]4-oxo-butyric acid benzyl ester | 2.04 mmol, 1.0 g | C(C1=CC=CC=C1)OC([C@H](CC(=O)N1CC(C1)OC1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C25H29ClN2O6
reactant | lithium aluminium hydride | 5.1 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | {(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCN1CC(C1)OC1=CC=C(C=C1)Cl)CO)=O | C18H27ClN2O4
